US07186729B2
Step 4: 3-[(4-Chloro-benzyl)-(1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-pyrrolidin-3-yl)-amino]-propionic acid methyl ester
To a solution of 3-[(4-chloro-benzyl)-pyrrolidin-3-yl-amino]-propionic acid methyl ester (0.06 g, 0.2 mmol) in acetonitrile:water (3:1) was added potassium carbonate (0.056 g, 0.4 mmol) and (E)-2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (0.065 g, 0.17 mmol) and reaction stirred at 50° C. for 24 h. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate and dried over sodium sulfate. The crude product was purified by flash chromatography on silica using ethyl acetate/methanol (5%). 1H-NMR (CDCl3) δ: 1.40 (6H, s), 1.60 (1H, m), 1.80 (1H, m), 2.10–2.60 (8H, m), 3.20–3.40 (6H, m), 3.50 (2H, m; 2H, s), 5.20 (2H, br s), 6.15 (1H, t), 6.70 (1H, t), 7.18–7.42 (7H, m), 7.70 (1H, dd), 8.50 (1H, dd). ESI-MS m/z: 590 (M+1), UV retention time: 1.51 min.

reactant | 3-[(4-chloro-benzyl)-pyrrolidin-3-yl-amino]-propionic acid methyl ester | 0.2 mmol, 0.06 g | COC(CCN(C1CNCC1)CC1=CC=C(C=C1)Cl)=O | C15H21ClN2O2
reactant | potassium carbonate | 0.4 mmol, 0.056 g | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.17 mmol, 0.065 g | BrCC\C=C/1\C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | acetonitrile water | C(C)#N.O
product | 3-[(4-Chloro-benzyl)-(1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-pyrrolidin-3-yl)-amino]-propionic acid methyl ester | COC(CCN(C1CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)CC2=CC=C(C=C2)Cl)=O | C34H40ClN3O4
